US06599917B1
e) 3-(2-Benzyl-3-thienyl)ethynyl-3-quinuclidinol
0.200 ml of a hexane solution containing 1.8 mol of butyl lithium was added dropwise to a mixture of 45.2 mg of 2-benzyl-3-ethynyl-thiophene and 1 ml of tetrahydrofuran at −78° C., followed by stirring at the same temperature for 20 hours. A solution of 0.5 ml of tetrahydrofuran containing 39.9 mg of 3-quinuclidinone was added dropwise to the reaction solution at the same temperature, followed by stirring and then at room temperature for 4 hours. 0.5 ml of water and NH-silica gel were added to the reaction solution, and the solvent was removed. The residue was subjected to NH-silica gel column chromatography using ethyl acetate, to give 39.5 mg of the target compound.

reactant | hexane | 0.200 ml | CCCCCC | C6H14
reactant | butyl lithium | 1.8 mol | C(CCC)[Li]
reactant | 2-benzyl-3-ethynyl-thiophene | 45.2 mg | C(C1=CC=CC=C1)C=1SC=CC1C#C | C13H10S
reactant | 3-quinuclidinone | N12CC(C(CC1)CC2)=O | C7H11NO
solvent | water | 0.5 ml | O | H2O
solvent | tetrahydrofuran | 0.5 ml, 39.9 mg | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 3-(2-Benzyl-3-thienyl)ethynyl-3-quinuclidinol | 39.5 mg | C(C1=CC=CC=C1)C=1SC=CC1C#CC1(CN2CCC1CC2)O | C20H21NOS
